US04492702
To a stirred solution of 5.8 gm of methyl 2-phenylamino-3-pyridine carboxylate and 25 gm of ethyl 2-pyridylacetate there is added, portionwise, 5.7 gm of potassium tertiary butoxide under a nitrogen atmosphere. The system is heated to an internal temperature of 105° C. for 10 minutes. The reaction is cooled to room temperature, diluted with 100 ml of diethyl ether and the brown precipitate collected by filtration. The precipitate is washed with 200 ml water and the filtrate is acidified to pH 3-4 with a 15% HCl solution whereupon the product separates. The precipitate is filtered and dried to give 6.3 gm of crude 4-hydroxy-1-phenyl-3-(2-pyridyl)-1,8-naphthyridin-2(1H)one; recrystallization from pyridine yields the title product; m.p. 332°-333° C.

reactant | methyl 2-phenylamino-3-pyridine carboxylate | 5.8 gm | C1(=CC=CC=C1)NC1=NC=CC=C1C(=O)OC | C13H12N2O2
reactant | ethyl 2-pyridylacetate | 25 gm | N1=C(C=CC=C1)CC(=O)OCC | C9H11NO2
reactant | potassium tertiary butoxide | 5.7 gm | CC(C)([O-])C.[K+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-hydroxy-1-phenyl-3-(2-pyridyl)-1,8-naphthyridin-2(1H)one | 6.3 gm | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)C1=NC=CC=C1 | C19H13N3O2
